US03988471
Example 2 -- Preparation of allyl 3,5-di-t-butyl-4-hydroxydithiobenzoate
A 0.1 mol sample of 2,6-di-t-butylphenol was added dropwise to a solution of 0.2 mol sodium hydride (57% in mineral oil) in 150 ml dimethoxyethane under an atmosphere of nitrogen at about 25° C. After the addition was completed, the reaction mixture was stirred for one hour at 25° C. A 0.1 mol sample of carbon disulfide was then added and the resulting reaction mixture stirred at about 25° C. for 10 minutes. Concentrated hydrochloric acid (0.1 mol) was added slowly, followed by 0.1 mol allyl bromide in 50 ml dimethoxyethane. The reaction mixture was then heated at reflux overnight (about 16 hours). The reaction mixture was poured into ice water and the crystalline product recovered by filtration. Recrystallization from ether/hexane gave the product, which melted at 93°-95° C. Elemental analysis of the product is tabulated in Table I.

reactant | 2,6-di-t-butylphenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | sodium hydride | 0.2 mol | [H-].[Na+]
reactant | hydrochloric acid | 0.1 mol | Cl | ClH
reactant | allyl bromide | 0.1 mol | C(C=C)Br | C3H5Br
reactant | carbon disulfide | C(=S)=S | CS2
solvent | dimethoxyethane | 150 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
product | allyl 3,5-di-t-butyl-4-hydroxydithiobenzoate | C(C)(C)(C)C=1C=C(C(=S)SCC=C)C=C(C1O)C(C)(C)C | C18H26OS2
